US06544985B2
(4,5-Dichloro-2-nitro-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared via the di-Boc-compound from commercially available 4,5-dichloro-2-nitroaniline (15 g, 72.5 mmol) and Boc2O (32.4 g, 148.5 mmol), followed by treatment-with 2 eq. TFA in CH2Cl2 according to the general procedure B (method c). Obtained as a brown solid (21.63 g, 97%).

reactant | 4,5-dichloro-2-nitroaniline | 72.5 mmol, 15 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | Boc2O | 148.5 mmol, 32.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4,5-Dichloro-2-nitro-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])=O | C11H12Cl2N2O4
